US20010016207A1
C. 4-(4-FMOC-piperazin-1-yl)-benzoic acid
4-Piperazin-1-yl-benzoic acid hydrochlorid (10.5 mmol) is dissolved in 15 ml Dioxan and 11.6 ml NaOH (2N) and cooled to 0° C. Simultaneously, FMOC-chloride (11.6 mmol) in dioxan (5 ml) and diisopropyl-ethylamine (11.6 mmol) in dioxan (5 ml) are added dropwise over 20 minutes at 0° C. and the mixture is stirred for 15 minutes and is then allowed to warm up to rt and is stirred over night. The mixture is diluted with water (50 ml) and extracted 2 times with diethylether. The water phase is acidified with aqueous HCl (4N) at 0-4° C. and the solid material formed is filtered off, washed with water and dried (vacuum). A white powder with Rf=0.2 (CH2Cl2/MeOH =95:5) is obtained.

reactant | 4-Piperazin-1-yl-benzoic acid hydrochlorid | 10.5 mmol | Cl.N1(CCNCC1)C1=CC=C(C(=O)O)C=C1
reactant | NaOH | 2N, 11.6 ml | [OH-].[Na+]
reactant | FMOC-chloride | 11.6 mmol | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | diisopropyl-ethylamine | 11.6 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | Dioxan | 15 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 4-(4-FMOC-piperazin-1-yl)-benzoic acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C26H24N2O4
